US05236952
8.0 g of 4'-hydroxy-3'-methoxy-2-methyl-5'-nitropropiophenone are treated with 64 g of pyridine hydrochloride and stirred at 180° for 45 minutes. After cooling the reaction mixture is poured into 500 ml of ice-water, whereupon it is made acid with 20 ml of 3N hydrochloric acid and extracted with methylene chloride. The organic phase is washed with water, dried over sodium sulfate and evaporated in a water-jet vacuum. After crystallization from methylene chloride/n-hexane there is obtained 3',4'-dihydroxy-2-methyl-5'-nitropropiophenone in the form of yellow crystals of m.p. 98°-99°.

reactant | 4'-hydroxy-3'-methoxy-2-methyl-5'-nitropropiophenone | 8.0 g | OC1=C(C=C(C=C1[N+](=O)[O-])C(C(C)C)=O)OC | C11H13NO5
reactant | pyridine hydrochloride | 64 g | Cl.N1=CC=CC=C1
solvent | hydrochloric acid | 3N, 20 ml | Cl | ClH
product | 3',4'-dihydroxy-2-methyl-5'-nitropropiophenone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(C)C)=O | C10H11NO5
